US09084794B2
f) (+)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(quinolin-7-yl)phenyl)-N-hydroxyacetamide
A solution of methyl 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(quinolin-7-yl)phenyl)acetate (0.560 mmol) in methanol (2 mL) and tetrahydrofuran (2 mL) was treated with potassium hydroxide (1.782 mmol) and hydroxylamine (50% w/v in water, 8.16 mmol). The reaction mixture was stirred at room temperature for 3 h. The reaction solution was then concentrated to dryness under a stream of nitrogen. Purification of the residue by reverse phase HPLC (20-60% acetonitrile/water with 0.1% NH4OH) followed by chiral HPLC (Chiralpak AS-H column, acetonitrile:methanol 98:2) and lyophilization from water (w/25% acetonitrile) afforded the title compound as a white solid (20 mg, 6%). MS(ES)+ m/e 504.9 [M+H]+, >99% ee, αD=+17 deg (c=0.02, acetonitrile:methanol 98:2).

reactant | methyl 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(quinolin-7-yl)phenyl)acetate | 0.560 mmol | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C(=O)OC)C2=C(C=C(C=C2)C2=CC=C1C=CC=NC1=C2)F)=O | C29H30FN3O4
reactant | potassium hydroxide | 1.782 mmol | [OH-].[K+]
reactant | hydroxylamine | 8.16 mmol | NO | H3NO
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (+)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(quinolin-7-yl)phenyl)-N-hydroxyacetamide | 20 mg, 6% | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C(=O)NO)C2=C(C=C(C=C2)C2=CC=C1C=CC=NC1=C2)F)=O | C28H29FN4O4
